US07662830B2
6. 5-Chloro-6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-nicotinic acid
To a solution of 5-chloro-6-{4-[6-(4-fluoro-phenyl)2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-nicotinic acid ethyl ester (427 mg, 0.813 mmol) in THF, add water dropwise until the cloudiness almost persists. To this mixture add LiOH.H20 (350 mg, 8.13 mmol) followed by a small amount of EtOH. Heat the mixture at 55° C. for 2 h, and then concentrate under reduced pressure. Add a small amount of water to the residue, followed by 8.13 mmol of HCl (3M solution). Adjust the final pH to 4 and collect the off-white solid via filtration. Wash the solid with water and dry to afford the title compound.

reactant | 5-chloro-6-{4-[6-(4-fluoro-phenyl)2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-nicotinic acid ethyl ester | 0.813 mmol, 427 mg | C(C)OC(C1=CN=C(C(=C1)Cl)N1CCN(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1C(CCC1)C)=O | C27H30ClFN6O2
reactant | water | O | H2O
reactant | LiOH | [Li+].[OH-]
reactant | HCl | 8.13 mmol, 3M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOH | CCO | C2H6O
product | 5-Chloro-6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-nicotinic acid | ClC=1C(=NC=C(C(=O)O)C1)N1CCN(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1C(CCC1)C | C25H26ClFN6O2
